US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the phenylacetyloxymethyl difluoromethanesulfonic acid sodium salt (2.97 g) produced in <1> above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt, and thus 3.87 g (yield 99.5%) of phenylacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 7 was obtained. The structure of the product was confirmed by 1H-NMR (see FIG. 6).

reactant | phenylacetyloxymethyl difluoromethanesulfonic acid sodium salt | 2.97 g | [Na+].C1(=CC=CC=C1)CC(=O)OCC(S(=O)(=O)[O-])(F)F
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt | [Na].FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | phenylacetic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.87 g, yield 99.5% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(CC1=CC=CC=C1)=O)(S(=O)(=O)O)F | InChI=1S/C19H16S.C10H10F2O5S/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;11-10(12,18(14,15)16)7-17-9(13)6-8-4-2-1-3-5-8/h1-15,19H;1-5H,6-7H2,(H,14,15,16)/p+1
